US07700633B2
C. 2-Ethyl-6-methoxy-1,2,3,4-tetrahydronaphthalene
To a solution of 3-ethyl-7-methoxy-1,2-dihydronaphthalene (2.6 g, 13.8 mmol) in MeOH (20 mL) is added 10% Pd/C (200 mg) and the mixture is stirred at 1 atm for 18 h. The mixture is filtered through Celite, and the filtrate is concentrated to give the title compound: 1H NMR (CDCl3) δ 0.87 (t, J=7 Hz, 3H), 1.19-1.32 (m, 3H), 1.49-1.50 (m, 1H), 1.80-1.82 (m, 1H), 2.19-2.23 (m, 1H), 2.72-2.67 (m, 3H), 3.67 (s, 3H), 6.52 (d, J=2.5 Hz, 1H), 6.57 (dd, J=2.5, 8 Hz, 1H), 6.83 (d, J=8 Hz, 1H).

reactant | 3-ethyl-7-methoxy-1,2-dihydronaphthalene | 13.8 mmol, 2.6 g | C(C)C=1CCC2=CC(=CC=C2C1)OC | C13H16O
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 2-Ethyl-6-methoxy-1,2,3,4-tetrahydronaphthalene | C(C)C1CC2=CC=C(C=C2CC1)OC | C13H18O
